Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hyperactive Delirium
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old male with history of dementia
who initially presented from memory unit to ___ after
an unwitnessed fall, subsequently transferred to ___ ___ for
neurosurgical evaluation.

Per facility patient has had increased lethargy over the past 1
week, and on the day of presentation, he had an unwitnessed 
fall.
Was found on his buttocks. Unable to comment on headstrike as it
was unwitnessed. Unable to ambulate since the fall - has
attempted to stand up but continues to fall down. Patient is not
on blood thinners. Patient with baseline dementia and is poor
historian and unable to provide any reliable history. Upon
arrival to the ___, he offers no complaints. His wife ___ states
they noted patient with ecchymosis to  left eye and nose last
week, likely another unwitnessed fall. 

In the ___, initial vitals were:  T 97.2, HR 72, BP 119/71, RR 
18,
Sat 97% RA

Exam notable for:  
- Awake and alert oriented to person only. Strong odor of urine
appreciated. Lungs clear and speaking full sentences. Abdomen
soft, non-tender. Pelvis stable. No midline vertebral 
tenderness.
He is moving all extremities.

Labs from ___ notable for:  
- 4.9 > 12.4 < 178
- Cr and lytes WNL
- Trops neg
- UA neg, UCx neg

EKG - sinus @ 65, NA/NI, no ST changes 

Imaging was notable for:  
- NCHCT: "No significant increase in size of a mixed, likely
acute on chronic right
subdural fluid collection. No significant change in ___
midline shift. No herniation. Similar effacement of right
hemispheric sulci and the right lateral ventricle."
- CXR: no acute cardiopulmonary process

Neurosurgery was consulted and advised that based on grossly
stable NCHCT and stable to slightly improved exam, no emergent 
or
urgent neurosurgical intervention indicated at this time. They
recommended continuing Keppra 500mg BID until ___, and no
ASA/Coumadin/Plavix until cleared by neurosurgery at follow up.

Patient was given:  
- IM OLANZapine 2.5 mg  x4
- PO/NG QUEtiapine Fumarate 150 mg
- PO LevETIRAcetam 500 mg  x2
- PO/NGMemantine 10 mg
- PO Pantoprazole 40 mg
- PO/NGSertraline 100 mg

Upon arrival to the floor, patient was consistently following
verbal commands but A&Ox0. Denied headache, pain elsewhere, or
dyspnea. 

ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative

 
Past Medical History:
- Alzheimer's Dementia (diagnosed ___, resides in memory unit
- GERD
- Glaucoma
- OA
- Unsteady gait
- Vitamin D deficiency

 
Social History:
___
Family History:
Reviewed and not relevant to this hospitalization
 
Physical Exam:
ADMISSION:
==========
VITAL SIGNS: T 97.8, BP 114/65, HR 76, Sat 92% RA
GENERAL: Drowsy but consistently following verbal commands. No
acute distress.  
HEENT: White sclera. PERRL.  
CARDIAC: RRR. Normal S1 and S2. No murmurs. 
LUNGS: Lungs CTAB. No wheezes, rhonchi, or rales. 
ABDOMEN: Soft, NTND. 
EXTREMITIES: WWP. No ___ edema. 
NEUROLOGIC: A&Ox0. CN III-XII intact. Consistently following
verbal commands, but not responding appropriately. Grip strength
intact in UE. Moving toes of b/l ___.
 
DISCHARGE:
===========
VITAL SIGNS: T 97.3 BP 125 / 71 P 58 98% Ra 
GENERAL: Sleeping, responds to verbal stimuli, NAD.  
CARDIAC: RRR. Normal S1 and S2. No murmurs. 
LUNGS: Lungs CTAB. No wheezes, rhonchi, or rales. 
ABDOMEN: Soft, NTND. 
EXTREMITIES: WWP. No ___ edema. 
NEUROLOGIC: Alert to verbal stimuli (eyes open and oriented to
self, not to place or time. CN V/VII/VIII presumed intact (hears
and speaks). Responds and follows some verbal commands, but not
responding appropriately; moving toes of b/l ___. 

 
Pertinent Results:
ADMISSION:
==========
___ 06:56AM BLOOD WBC-5.5 RBC-4.28* Hgb-13.5* Hct-41.8 
MCV-98 MCH-31.5 MCHC-32.3 RDW-13.2 RDWSD-47.5* Plt ___
___ 06:56AM BLOOD Glucose-95 UreaN-16 Creat-1.0 Na-144 
K-3.9 Cl-103 HCO3-26 AnGap-15
___ 06:56AM BLOOD Calcium-8.8 Phos-3.7 Mg-2.1

MICRO:
=======
___ 6:25 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING:
========
___ 7:12 ___ 
CHEST (PA & LAT) 
IMPRESSION:  
No acute cardiopulmonary abnormality. 

___ 8:13 AM 
CT HEAD W/O CONTRAST 
COMPARISON:  Prior CT ___.
IMPRESSION:  
No significant increase in size of a mixed, likely acute on 
chronic right 
subdural fluid collection.  No significant change in leftward 
midline shift.  
No herniation.  Similar effacement of right hemispheric sulci 
and the right lateral ventricle. 
 
DISCHARGE:
==========
___ 03:15PM BLOOD Glucose-89 UreaN-20 Creat-0.9 Na-146 
K-4.0 Cl-105 HCO3-29 AnGap-12
___ 03:15PM BLOOD Calcium-9.0 Phos-3.9 Mg-2.0
___ 06:25AM BLOOD WBC-5.6 RBC-4.34* Hgb-13.8 Hct-42.6 
MCV-98 MCH-31.8 MCHC-32.4 RDW-13.2 RDWSD-47.8* Plt ___

 
Brief Hospital Course:
SUMMARY:
___ with h/o dementia, who presented from nursing home memory 
unit after an unwitnessed fall, found to have SDH, no indication 
for surgical intervention at this time. Initially managed in ___ 
obs, but ultimately admitted for management of hyperactive 
delirium requiring chemical and physical restraints, preventing 
return to rehab. After inpatient assessment by ___, determined to 
be below functional status, so will be discharged to ___ for ___ 
on ___, course c/b mild hypernatremia.

ACUTE/ACTIVE ISSUES:
====================
#Hyperactive delirium:
#Acute encephalopathy: 
Most likely triggered by environmental factors (being in the ___ 
in setting of progressive dementia. Other causes such as acute 
medical illness and medication side-effects are less likely; neg 
infection w/u, stable/improving SDH. Most recent med change is 
starting olanzapine. Patient seems to demonstrate 
non-threatening combative behavior at baseline from collateral 
information. Observed with delirium precautions, wife visited 
daily. No further hyperactive outbursts. Mental status at 
baseline, but functional status below baseline, so disposition 
to SNF for physical therapy as below. 

#Acute on Chronic subdural hematoma: Serial evaluations by 
neurosurgery in the ___ showed stable NCHCT and stable to 
slightly improved neuro exam, therefore no indication for 
surgery at this time.

#Falls: Patient with multiple falls in weeks prior to this 
admission. Evaluated by ___ in ___ and again daily while admitted 
to the floors. Has mechanical deficits, not orthostatic. Family 
aware and agreeable to discharge to ___ for more intensive ___ 
prior to returning to memory unit.

#Mild hypernatremia: On hospital day 2, noted to have mild 
hypernatremia (Na 148, serum glucose 120). Encouraged patient to 
take more fluids. ___ lytes showed resolution with oral 
rehydration. Patient should be encouraged to take PO fluids 
while at ___.

CHRONIC ISSUES:
===============
# Dementia
- Continue home memantine
- Continue home Sertraline 200 mg PO DAILY 

# GERD
- Continue home omeprazole

# Glaucoma
- Continue home Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES 
QHS
- Continue home Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 

TRANSITIONAL ISSUES:
====================
[ ]Follow up with Dr. ___ in one month with a 
___. The patient's wife may make this appointment by calling 
___. This appointment should be on/around ___
[ ]Complete 7d Keppra course (last dose ___ ___  
[ ]Please hold ALL anticoagulants until cleared by ___ at 
follow-up appointment
[ ]Please encourage patient to take PO fluids
CODE: DNR/DNI (confirmed)

  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 
2. Memantine 10 mg PO BID 
3. Sertraline 200 mg PO DAILY 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. QUEtiapine Fumarate 150 mg PO DAILY AT 5PM 
6. OLANZapine 5 mg PO QAM 
7. Omeprazole 20 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  LevETIRAcetam 500 mg PO Q12H  
3.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
4.  Memantine 10 mg PO BID  
5.  OLANZapine 5 mg PO QAM  
6.  Omeprazole 20 mg PO BID  
7.  QUEtiapine Fumarate 150 mg PO DAILY AT 5PM  
8.  Sertraline 200 mg PO DAILY  
9.  Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Primary diagnosis: 
Hyperactive delirium 
Chronic subdural hematoma 
Unwitnessed falls 
 
Secondary diagnoses: 
Alzheimer's dementia 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___

WHY WAS I IN THE HOSPITAL?
You came to ___ because you 
were found down on the ground after a fall.  It seems you were 
more confused than usual.  You initially with his cereal in the 
emergency department, and became very agitated, so you had to be 
admitted to the hospital for a brief time.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-We did blood work, chest x-ray, urinalysis, and observed for 
any acute disease. There was no sign of infection or other acute 
disease to explain your falls.
-A physical therapist saw you and determined that you will need 
a skilled nursing facility for short a period of time.
-You were kept on your home medications.

WHAT SHOULD I DO AFTER LEAVING THE HOSPITAL?
-Take your medicines as prescribed
-Work with physical therapy and work activities
-Maintain delirium precautions
-Follow-up with the neurosurgeons in one month
-DO NOT take any blood thinners or anti-platelet medications

Wishing you the best health!

Your ___ team

 
Followup Instructions:
___